US09035059B2
Pyridine (3.09 mL, 38.4 mmol) was added to a solution of 4-fluoroaniline (3.73 g, 33.6 mmol) in chloroform (107 mL), and 7-bromo-2-(trifluoroacetyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonyl chloride (13.0 g, 32.0 mmol) was added thereto while cooling in ice. The mixture was warmed to room temperature and stirred for 13 hr. To the mixture was added 1 mol/L hydrochloric acid, and the mixture was extracted with chloroform. The organic layer was concentrated under reduced pressure and the concentrate was powdered with hexane and ethyl acetate (4:1) and then collected by filtration to afford 7-bromo-N-(4-fluorophenyl)-2-(trifluoroacetyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide as an orange powder (14.5 g).

reactant | Pyridine | 38.4 mmol, 3.09 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-fluoroaniline | 33.6 mmol, 3.73 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 7-bromo-2-(trifluoroacetyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonyl chloride | 32.0 mmol, 13.0 g | BrC1=C(C=C2CCN(CC2=C1)C(C(F)(F)F)=O)S(=O)(=O)Cl | C11H8BrClF3NO3S
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | chloroform | 107 mL | C(Cl)(Cl)Cl | CHCl3
product | 7-bromo-N-(4-fluorophenyl)-2-(trifluoroacetyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide | 14.5 g | BrC1=C(C=C2CCN(CC2=C1)C(C(F)(F)F)=O)S(=O)(=O)NC1=CC=C(C=C1)F | C17H13BrF4N2O3S
